US05387585
3. 8.2 g of 4-chloro-2-(chloromethyl)thieno[3,2-d]pyrimidine are dissolved in 500 ml of absolute tetrahydrofuran. The solution is cooled to 5° C. 7 ml of hydrazine hydrate are added dropwise within 5 min., whereby a solution results and the temperature rises to 15° to 20° C. The reaction mixture is stirred at room temperature for 15 h. and then evaporated in a vacuum. The residue is stirred with 100 ml of saturated aqueous sodium hydrogen carbonate solution for 30 min. and then filtered off. The crystals are washed neutral with water and dried in a vacuum. 14.7 g of 2-(chloromethyl)-4-hydrazinothieno[3,2-d]-pyrimidine are obtained. A further 1.0 g of 2-(chloromethyl)-4-hydrazinothieno[3,2-d]pyrimidine are obtained by extracting the filtrate with chloroform.

reactant | 4-chloro-2-(chloromethyl)thieno[3,2-d]pyrimidine | 8.2 g | ClC=1C2=C(N=C(N1)CCl)C=CS2 | C7H4Cl2N2S
reactant | hydrazine hydrate | 7 ml | O.NN
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 2-(chloromethyl)-4-hydrazinothieno[3,2-d]-pyrimidine | 14.7 g | ClCC=1N=C(C2=C(N1)C=CS2)NN | C7H7ClN4S
